US03992392
To a suitable reaction vessel there was added 6.07 g (0.044 mol) of 4-nitroaniline dissolved in 300 ml of methylene chloride. The solution wascooled with vigorous stirring to -65°, giving a suspension of the nitro compound. A solution of 5.75 g (0.055 mol) of t-butyl hypochlorite in 10 ml of methylene chloride was added to form the 4-nitro-N-chloroaniline and subsequently after 3 hr, 7.4 g (0.071 mol) of methylthio-2-propanone in 10 ml of methylene chloride was added, while stirring was continued for 10 hr. to form the azasulfonium chloride salt. The triethylamine, 4.4 g (0.044 mol), dissolved in 10 ml of methylene chloride was added and the solution was warmed to room temperature to formthe 2-methyl-3-methylthio-5-nitroindole. A 50-ml portion of water was addedand after separation, the organic layer was extracted thoroughly with a 2N aqueous hydrochloric acid. Drying over anhydrous magnesium sulfate and filtration of the organic solution was followed by evaporation, leaving a solid residue that was stirred for several hr with 30 ml of benzene. The remaining precipitate was collected by filtration giving 2.92 g (0.013 mol, 30%) of 2-methyl-3-methylthio-5-nitroindole, mp 197.5°-198.5° (recr. from 95% ethanol); ir (KBr) 3250 cm-1 (NH); pmr (acetone-d6) 1.40 (1H, br, s, NH), 1.02 (1H,d, J=2.0Hz, 4-aryl H), 2.02 (1H, dd, J=8.0 and 2.0 Hz, 6-aryl H), 2.57 (1H,d J=9.0 Hz, 7-aryl H) and 7.42 and 7.73 (3H, s, SCH3 and CH3).

reactant | 4-nitroaniline | 0.044 mol, 6.07 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | t-butyl hypochlorite | 0.055 mol, 5.75 g | ClOC(C)(C)C | C4H9ClO
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-nitro-N-chloroaniline | [N+](=O)([O-])C1=CC=C(NCl)C=C1 | C6H5ClN2O2
